US05670503
2-tert-Butoxycarbonylaminoacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (50 mg) was dissolved in trifluoroacetic acid (0.5 ml). The solution was stirred at ambient temperature for 30 minutes and concentrated in vacuo. The residue was dissolved in water and the solution was neutralized with an aqueous saturated sodium bicarbonate solution. The separated oil was extracted with a mixture of dichloromethane and ethanol (7:3) and the extract was washed with water, dried and concentrated in vacuo. The residue was crystallized from ethyl acetate to give 2-aminoacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (30 mg).

reactant | 2-tert-Butoxycarbonylaminoacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 50 mg | C(C)(C)(C)OC(=O)NCC(=O)N1NCCN2C1=C(C(=N2)C2=CC=C(C=C2)F)C2=CC=NC=C2 | C23H25FN6O3
solvent | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-aminoacetyl-7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 30 mg | NCC(=O)N1NCCN2C1=C(C(=N2)C2=CC=C(C=C2)F)C2=CC=NC=C2 | C18H17FN6O
